US05175341
(3) 4-Nitrobenzyl D-mandelate
A solution of 15.2 g (100 mmol) of D-mandelic acid, 21.6 g (100 mmol) of 4-nitrobenzyl bromide, and 14.0 ml (100 mmol) of triethylamine in 300 ml of DMF was stirred for 8 hours at room temperature. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with 2N hydrochloric acid and water and recrystallized from ether-petroleum ether to give 19.6 g of the aimed product D-4 in 68% yield.

reactant | D-mandelic acid | 100 mmol, 15.2 g | C([C@H](O)C1=CC=CC=C1)(=O)O | C8H8O3
reactant | 4-nitrobenzyl bromide | 100 mmol, 21.6 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | triethylamine | 100 mmol, 14.0 ml | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
product | 4-Nitrobenzyl D-mandelate | 19.6 g, 68% yield | C([C@H](O)C1=CC=CC=C1)(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C15H13NO5
